US05807859
To 11 g of 8-amino-10-(carboxymethylene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one dihydrochloride dissolved in 110 ml of dimethylformamide and 110 ml of dioxane at a temperature in the region of 20° C. are added 12.42 g of potassium carbonate, followed by dropwise addition of 5.3 ml of methyl isocyanate. The stirring is continued for 30 hours at the same temperature. The reaction medium is then filtered. The solid recovered is dried under reduced pressure (15 mmHg; 2 kPa). The residue is taken up in 50 ml of water and the precipitate is filtered off. The solid is acidified with 2 ml of concentrated hydrochloric acid in 50 ml of water and then filtered and dried under reduced pressure (15 mmHg; 2 kPa). The insoluble product thus formed is taken up in 700 ml of dimethylformamide and brought to 50° C. in the presence of 1 g of animal black. The solution is filtered on Celite and the filtrate is concentrated on a rotary evaporator at 40° C. under reduced pressure (15 mmHg; 2 kPa). (1 mmHg; 0.13 kPa). The residue is taken up in 200 ml of ethyl ether and then filtered and dried for 8 hours at 50° C. under reduced pressure (1 mmHg; 0.13 kPa). 3.67 g of 10-(carboxymethylene)-8-(3-methylureido)-5H,10H-imidazo(1,2-a]indeno[1,2-e]pyrazin-4-one are obtained in the form of an orange-coloured powder, the melting point of which is greater than 260° C. (Analysis, C17 H13N5O4.0.9 DMF.0.9 H2O, % calculated C: 58.12; H: 3.73; N: 19.93, % found C: 58.1; H: 3.4; N: 19.6).

reactant | 8-amino-10-(carboxymethylene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one dihydrochloride | 11 g | Cl.Cl.NC1=CC=2C(C3=C(NC(C=4N3C=CN4)=O)C2C=C1)=CC(=O)O
reactant | dioxane | 110 ml | O1CCOCC1 | C4H8O2
reactant | potassium carbonate | 12.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl isocyanate | 5.3 ml | CN=C=O | C2H3NO
solvent | dimethylformamide | 110 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 700 ml | CN(C=O)C | C3H7NO
product | 10-(carboxymethylene)-8-(3-methylureido)-5H,10H-imidazo(1,2-a]indeno[1,2-e]pyrazin-4-one | 3.67 g | C(=O)(O)C=C1C=2C=C(C=CC2C=2NC(C=3N(C21)C=CN3)=O)NC(=O)NC | C17H13N5O4
